US07674807B2
4-Iodo-1-(3-methyl-4-nitrobenzyl)-3-trifluoromethyl-1H-pyrazole (2.47 g), copper powder (1.14 g), nonafluoro-1-iodobutane (4.15 g) and DMF (16 ml) were set in an autoclave and heated and stirred for 8 hours, maintaining the inside temperature of 130-135° C. After cooling to room temperature, the reaction mixture was diluted with toluene (50 ml) and an insoluble matter was filtered with Celite and washed with toluene. The filtrate was concentrated under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 1-(3-methyl-4-nitrobenzyl)-4-nonafluorobutyl-3-trifluoromethyl-1H-pyrazole (1.50 g).

reactant | 4-Iodo-1-(3-methyl-4-nitrobenzyl)-3-trifluoromethyl-1H-pyrazole | 2.47 g | IC=1C(=NN(C1)CC1=CC(=C(C=C1)[N+](=O)[O-])C)C(F)(F)F | C12H9F3IN3O2
reactant | nonafluoro-1-iodobutane | 4.15 g | FC(C(C(C(I)(F)F)(F)F)(F)F)(F)F | C4F9I
reactant | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper | 1.14 g | [Cu] | Cu
product | 1-(3-methyl-4-nitrobenzyl)-4-nonafluorobutyl-3-trifluoromethyl-1H-pyrazole | 1.50 g | CC=1C=C(CN2N=C(C(=C2)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C(F)(F)F)C=CC1[N+](=O)[O-] | C16H9F12N3O2
